US08114886B2
5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde
In an argon atmosphere, a hexane solution of n-butyllithium M, 22.3 ml, 34.4 mmol) was added to a solution of 2-bromo-5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine (8.10 g, 19.1 mmol) in toluene (200 ml) at −78° C. The reaction mixture was stirred for 30 minutes, and then N,N-dimethylformamide (1.63 ml, 21.0 mmol) was added at the same temperature. The reaction mixture was stirred for 30 minutes, then water was added at the same temperature, and the mixture was allowed to warm to room temperature. Ethyl acetate was added to the reaction mixture, and the resulting mixture was washed with saturated aqueous ammonium chloride, and then with saturated brine. The organic layer was dried over anhydrous sodium sulfate and filtered, then the filtrate was concentrated under reduced pressure, and the resulting residue was subjected to flash silica gel chromatography. The fraction obtained from an elution with hexane:ethyl acetate=10:1 was concentrated under reduced pressure, and the resulting residue was washed with a mixed solvent of diethyl ether and hexane and then collected by filtration, thus to obtain the title compound (4.27 g, 11.4 mmol, 60%) as a white solid.

reactant | hexane | CCCCCC | C6H14
reactant | n-butyllithium | C(CCC)[Li]
reactant | 2-bromo-5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine | 19.1 mmol, 8.10 g | BrC1=NC=C(C(=C1)C)C(SC1=CC=C(C=C1)F)C1=C(C=CC(=C1)F)F | C19H13BrF3NS
reactant | N,N-dimethylformamide | 21.0 mmol, 1.63 ml | CN(C=O)C | C3H7NO
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 5-[(2,5-difluorophenyl)[(4-fluorophenyl)thio]methyl]-4-methylpyridine-2-carbaldehyde | 11.4 mmol, 4.27 g, 60% | FC1=C(C=C(C=C1)F)C(C=1C(=CC(=NC1)C=O)C)SC1=CC=C(C=C1)F | C20H14F3NOS
